US06423704B1
Treat a solution of 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepan (0.89 g, 2.77 mmol, Preparation 9) and dimethylformamide (10 mL) with sodium hydride (0.15 g, 3.05 mmol, 49% dispersion in oil ) at room temperature. After 15 minutes, add slowly a solution of 4-chloromethyl-2-methylthiazole hydrochloride (0.56 g, 3.05 mmol, Lancaster Synthesis) and dimethylformamide (10 mL). After stirring 12 hours at room temperature, add water (10 mL) slowly and extract with dichloromethane.(150 mL). Wash the organic phase with water (3×10 mL), dry (Na2SO4) the organic layer, filter, concentrate the filtrate to remove the solvent and purify the residue by chromatography on silica gel eluting with 5% methanol in dichloromethane. Concentrate the desired fractions to afford 1.02 g of 4-[1-(2-methyl-thiazol-4-ylmethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester.

reactant | 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepan | 2.77 mmol, 0.89 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 3.05 mmol, 0.15 g | [H-].[Na+]
reactant | 4-chloromethyl-2-methylthiazole hydrochloride | 3.05 mmol, 0.56 g | Cl.ClCC=1N=C(SC1)C
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
product | 4-[1-(2-methyl-thiazol-4-ylmethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.02 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CC=1N=C(SC1)C)C=CC=C2 | C22H29N5O2S
